US09079888B2
Step (i): Preparation of 4-(4-Cyano phenoxy)piperidine-1-carboxylic acid tert-butyl ester
A solution of 4-hydroxy benzonitrile (15 g, 0.126 moles), potassium carbonate (28.89 g, 0.208 moles) and 4-(Toluene-4-sulfonyloxy)piperidine-1-carboxylic acid tert-butyl ester (57.62 g, 0.162 moles) in dimethylformamide (150 mL) was stirred at 100° C. while monitoring the progress of the reaction by thin layer chromatography. After completion of reaction, the reaction mass was quenched on to water (400 mL) and extracted with ethyl acetate (3×300 mL). The resulting ethyl acetate layer was washed with brine solution, dried over sodium sulfate and concentrated under reduced pressure to obtain the crude residue, which was further purified by flash chromatography using (ethyl acetate:hexane, 1:9) to afford the title compound 21.25 g

reactant | 4-hydroxy benzonitrile | 0.126 moles, 15 g | OC1=CC=C(C#N)C=C1 | C7H5NO
reactant | potassium carbonate | 0.208 moles, 28.89 g | C([O-])([O-])=O.[K+].[K+]
reactant | 4-(Toluene-4-sulfonyloxy)piperidine-1-carboxylic acid tert-butyl ester | 0.162 moles, 57.62 g | C(C)(C)(C)OC(=O)N1CCC(CC1)OS(=O)(=O)C1=CC=C(C=C1)C | C17H25NO5S
solvent | dimethylformamide | 150 mL | CN(C=O)C | C3H7NO
product | 4-(4-Cyano phenoxy)piperidine-1-carboxylic acid tert-butyl ester | 21.25 g, Yield: 55.8% | C(C)(C)(C)OC(=O)N1CCC(CC1)OC1=CC=C(C=C1)C#N | C17H22N2O3
